Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine
 
Attending: ___.
 
Chief Complaint:
chest pain 
 
Major Surgical or Invasive Procedure:
Cardiac catherization

 
History of Present Illness:
Ms. ___ is a ___ year-old lady with a questionable history of 
hypertension and a strong family history of early CAD, who now 
presents with chest tightness.  
She describes left-sided squeezing pain with radiation to the 
left shoulder that began this morning when she was getting 
dressed. During the first episode, it resolved after 1 minute of 
resting. Pain returned when she was riding to work with her 
husband, and they were laughing hard about something; again, it 
resolved after 5 minutes of relaxing. At 8 am, pain returned 
when she was helping a patient in the bathroom, and this time, 
it persisted for 10 minutes. During that last episode, her BP 
was 153/102. In each of the episodes, she did not have any 
lightheadedness, palpitations, diaphoresis or dyspnea.  
Episodes of pain are similar to symptoms in ___, for which 
she was evaluated in our ED, with normal EKG and bedside TTE; in 
___, however, she denies having any arm radiaion. More 
recently, she had similar episode in ___ at ___ with TWI 
in inferolateral leads on EKG, negative enzymes, and negative 
exercise-MIBI (see below). Patient notes that she has been 
hypertensive with stress in the past, and was on a BP med 
(?lisinopril) before, but has not been taking it recently. 
Additionally, she had bilateral lower extremity edema in ___, 
which has resolved with a low salt diet.  
On arrival to the ___ ED, initial vital signs were: 97.6 69 
151/89 18 98% RA. EKG was not uploaded to the Dash, but 
apparently showed NSR at 66 inf TWI slightly increased from 
prior. Troponin T was <0.01 x2. Otherwise, labs were notable for 
a negative UCG, WBC 5.1 with 50.4%L, H/H 11.7/35.4. CXR PA/lat 
showed no acute cardiopulmonary process. Patient received 
aspirin 325 mg PO, metoprolol tartrate 25 mg PO, amlodipine 5 mg 
PO, and was started on heparin IV drip. Heparin drip was 
reported to have been stopped prior to leaving the ED, but it 
was still going when she arrived to the floor. She was Guaiac 
negative on rectal exam. She was seen by cardiology consult, and 
recommended to be admitted to ___ under Dr. ___ blood 
pressure management, and possible cath tomorrow if pain is 
persistent. Vital signs prior to transfer were: 98.2 70 137/86 
16 100% RA.  
On arrival to the floor, Ms. ___ is comfortable. She denies 
any current chest pain, or any other complaints. She is 
concerned about the fact that she has been having recurrent 
episodes of pain.  
On review of systems, she denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. She denies recent fevers, chills or 
rigors. She denies exertional buttock or calf pain. All of the 
other review of systems were negative.  
Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope.

 
Past Medical History:
- question of hypertension  
- seasonal allergies  
- s/p appendectomy ___  
- ___ motor vehicle collision  

 
Social History:
___
Family History:
- father with MI at age ___, has CHF, still living  
- paternal grandfather deceased from ___ at age ___  
- paternal uncle with open heart surgery, with unknown details  
- paternal aunt with HTN, HLD, DM  
- mother with HLD, DM  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS: 98.7 144/96 69 20 100%RA 99.7kg  
General: Very pleasant, obese, in NAD. Comfortable.  
HEENT: MMM, NCAT. Clear oropharynx. Anicteric sclerae.  
Neck: 2+ carotid pulses bilaterally. No JVD. No cervical LAD.  
CV: RRR, Nl S1/S2, no MRG.  
Lungs: CTAB, good air movement. Respirations unlabored. No 
wheezes/rales.  
Chest: No TTP.  
Abdomen: Obese, soft, ND/NT. NABS.  
GU: No Foley catheter.  
Ext: 2+ radial, DP and ___ pulses. No peripheral edema.  
Neuro: Alert, awake and oriented x3. CNs grossly symmetric. 
Strength in ___ ___ bilaterally. Distal sensation intact and 
equal.  
Skin: No rashes.  

DISCHARGE PHYSICAL EXAM:
VS: T=97.8 BP=121/68 HR=65 RR=20O2 sat= 100% RA
GENERAL: NAD. Oriented x3. 
HEENT:  PERRL. EOMI.  
NECK: Supple with JVP of 5 cm.  
CARDIAC: RRR. No murmurs.
LUNGS: CBTA. No crackles/wheezes.
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: WWP X 4. Trace bilateral lower extremity edema
 
Pertinent Results:
ADMISSION LABS:
___ 09:18AM BLOOD WBC-5.1 RBC-4.25 Hgb-11.7* Hct-35.4* 
MCV-83 MCH-27.6 MCHC-33.1 RDW-12.9 Plt ___
___ 09:18AM BLOOD ___ PTT-33.4 ___
___ 09:18AM BLOOD Glucose-85 UreaN-10 Creat-0.8 Na-139 
K-3.9 Cl-102 HCO3-29 AnGap-12

DISCHARGE LABS:
___ 05:35AM BLOOD WBC-4.8 RBC-4.69 Hgb-12.5 Hct-39.5 MCV-84 
MCH-26.7* MCHC-31.7 RDW-13.1 Plt ___
___ 05:35AM BLOOD Glucose-89 UreaN-11 Creat-0.8 Na-138 
K-3.9 Cl-100 HCO3-32 AnGap-10
___ 05:35AM BLOOD Calcium-9.2 Phos-4.2 Mg-2.0
___ 09:18AM BLOOD Triglyc-112 HDL-39 CHOL/HD-3.0 LDLcalc-56

Imagining:
___ EKG: Normal sinus rhythm at 66 bpm. Normal axis, normal 
intervals. T-wave inversions in III, V5 and V6 (also noted from 
___ records in ___. T-wave flattening in aVF. Early 
R-wave progression.  
 
___ CXR PA/lat: The lungs are well expanded and clear. 
Cardiomediastinal silhouette is unremarkable. There is no 
pneumothorax or pleural effusion. Visualized osseous structures 
are unremarkable.  

Procedures:
Cardiac Catherization: 
LMCA:  Normal

LAD:   Insignificant coronary artery disease

LCX:  Insignificant coronary artery disease

RCA:  Insignificant coronary artery disease

 
Brief Hospital Course:
The following issues were addressed over the course of her 
hospital stay:

# Chest pain: Quality of pain is concerning for angina, possibly 
due to coronary vasospasm or microvascular disease. Troponin T 
<0.01 x3, with no ST elevations or depressions; has persistent 
non-specific ST segment changes, similar to prior. Stress MIBI 
two months ago at ___. Ms. ___ has a strong family 
history of CAD, as well as a possible personal history of 
hypertension, placing her at higher risk of CAD. She underwent a 
cardiac catherization procedure to conclusively investigate 
coronary heart disease which showed clean coronary arteries. She 
was started on metoprolol, atorvastatin, amlodipine and aspirin 
to optomize her from a cardiac standpoint. 

# Hypertension: Started on amlodipine and metoprolol. Will need 
PCP ___.
- continue amlodipine 5 mg PO daily  
- metoprolol tartrate as above  

# PUMP: LV EF estimated to be 72% in ___ on ___. No current 
evidence of volume overload.  
- monitor volume status on exam  
- I/O, goal net even  
- low sodium diet  

-------------------
Transitional issues:
-------------------
[ ] Blood pressure control monitoring
[ ] Medication adherance
[ ] F/u Hemoglobin A1c level
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth one tablet daily Disp 
#*30 Tablet Refills:*0
2. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Non-cardiac Chest Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the hospital for chest pain. Your 
electrocardiogram was normal and you cardiac enzymes did not 
show us that your heart is the source of your chest pain, which 
is reassuring. We did preform a cardiac catherization procedure 
in which we were able to directly visualize your coronary 
arteries. We found no evidence of coronary artery disease. 
 
Followup Instructions:
___